US08049015B2
To 2-bromo-5-(trifluoromethyl)benzaldehyde (7.5 g, 29.6 mmol) in MeOH (80 mL) was added ethylamine (2M in MeOH; 30 mL, 60 mmol), sodium cyanoborohydride (3.7 g, 58.9 mmol), and acetic acid (1.7 mL, 26.2 mmol), and the reaction was stirred at room temperature for 4 days. The mixture was quenched with saturated aqueous NaHCO3 and extracted with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The crude material was purified by silica gel chromatography (0-4% MeOH in CH2Cl2) to give (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine.

reactant | 2-bromo-5-(trifluoromethyl)benzaldehyde | 29.6 mmol, 7.5 g | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
reactant | ethylamine | 60 mmol, 2M, 30 mL | C(C)N | C2H7N
reactant | sodium cyanoborohydride | 58.9 mmol, 3.7 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 26.2 mmol, 1.7 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 80 mL | CO | CH4O
product | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
